### PR TITLE
Update Mathlib

### PR DESCRIPTION
**Pull request by vihdzp**
This is a bump from v4.18 to v4.22, so there's a lot of stuff here!

### CODE REVIEW

File: CombinatorialGames/NatOrdinal.lean [hunk 1]
```diff
@@ -343,19 +343,19 @@ instance : AddLeftMono NatOrdinal.{u} :=
...
-    add_le_add_left := fun _ _ => add_le_add_left
-    le_of_add_le_add_left := fun _ _ _ => le_of_add_le_add_left
-    zero := 0
-    zero_add := zero_nadd
-    add_zero := nadd_zero
-    add_comm := nadd_comm
-    nsmul := nsmulRec }
+    exact h.not_gt (add_lt_add_left h' a)⟩
+
+
```
Comment (tristan-f-r) [inline CombinatorialGames/NatOrdinal.lean]:
```suggestion
```

**Comment by vihdzp** [comment]
Feel free to commit into this PR, I wouldn't want to break something.

**Comment by plp127** [comment]
I had some stuff I wanted to do in #102 but couldn't because mathlib was outdated. Can you apply those changes here?
```
diff --git a/CombinatorialGames/Game/IGame.lean b/CombinatorialGames/Game/IGame.lean
index aee0988..cefb349 100644
--- a/CombinatorialGames/Game/IGame.lean
+++ b/CombinatorialGames/Game/IGame.lean
@@ -519,10 +519,6 @@ infix:50 " ≈ " => AntisymmRel (· ≤ ·)
 `IncompRel (⬝ ≤ ⬝) x y`. -/
 notation:50 x:50 " ‖ " y:50 => IncompRel (· ≤ ·) x y
 
-/-
-TODO: use `annotateGoToSyntaxDef` from
-`Mathlib.Lean.PrettyPrinter.Delaborator` once mathlib is updated
--/
 open Lean PrettyPrinter Delaborator SubExpr Qq in
 @[delab app.AntisymmRel]
 def delabEquiv : Delab := do
@@ -534,7 +530,8 @@ def delabEquiv : Delab := do
   _ ← assertDefEqQ q(($le).le) q($r)
   let x ← withNaryArg 2 delab
   let y ← withNaryArg 3 delab
-  `($x ≈ $y)
+  let stx ← `($x ≈ $y)
+  annotateGoToSynatxDef stx
 
 open Lean PrettyPrinter Delaborator SubExpr Qq in
 @[delab app.IncompRel]
@@ -547,7 +544,8 @@ def delabFuzzy : Delab := do
   _ ← assertDefEqQ q(($le).le) q($r)
   let x ← withNaryArg 2 delab
   let y ← withNaryArg 3 delab
-  `($x ‖ $y)
+  let stx ← `($x ‖ $y)
+  annotateGoToSynatxDef stx
 
 -- TODO: this seems like the kind of goal that could be simplified through `aesop`.
 theorem equiv_of_exists {x y : IGame}
```

File: CombinatorialGames/Game/Basic.lean [hunk 2]
```diff
@@ -259,9 +254,6 @@ instance : CharZero IGame where
 theorem natCast_equiv {m n : ℕ} : (m : IGame) ≈ n ↔ m = n := by
   simp [AntisymmRel, le_antisymm_iff]
 
-theorem natCast_add_equiv (m n : ℕ) : ((m + n : ℕ) : IGame) ≈ m + n := by
```
Comment (plp127) [inline CombinatorialGames/Game/Basic.lean:262]: What happened to this?

Comment (vihdzp) [reply CombinatorialGames/Game/Basic.lean:262]: `simp` rightly complained that this theorem was redundant, this is actually an equality!

**Comment by vihdzp** [comment]
@plp127 Sorry, I can't figure out how to run the command. Can you put those changes in a separate PR?

I think @tristan-f-r already did the necessary changes to the GitHub pages code, so I'll go ahead and merge this. Hope I'm not being overeager.

**Comment by tristan-f-r** [comment]
All good! I was waiting for the checks to pass and [it just did 8 minutes ago](https://github.com/tristan-f-r/combinatorial-games-ci/actions/runs/16039615539/job/45258502582) :+1:
